Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Iodine / Codeine
 
Attending: ___.
 
Chief Complaint:
Ataxia, gait unsteadiness.
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
The patient is a ___ old woman with history of seizure
disorder maintained on lamictal, seen by Dr. ___ in 
outpatient
clinic, presents with three episodes of ataxia/feeling unsteady
with last episode occurring on ___ after waking up from a
nap in the setting of maybe taking an extra dose of her
lamotrigine in the ___. Concern for toxicity had been raised by
Dr. ___ was drawn in outpatient setting on ___.
Patient recently switched to extended release lamotrigine in 
___. 

SEIZURE HISTORY: (From Dr ___ recent clinic note)
"Problem/diagnosis #1: Focal epilepsy
Epilepsy syndrome: Focal epilepsy, unclear localization, 
possibly
occipital versus temporal
Etiology: Cryptogenic
Seizure types: Simple partial, complex partial, secondarily
generalized tonic-clonic
Seizure control: Good, only simple partial seizures since 
___.

SEIZURE TYPES:
1. Possible simple partial: Jigsaw puzzle-like shapes in vision,
lasting several seconds, no loss of consciousness or confusion,
starting around age ___ years.  In past, ___ per year; none since
___.
2. Possible simple partial: Strange sensation in her nose, no
odor, strange feeling through body, like an out of body
sensation, no loss of consciousness or confusion.  Onset ___ per year, most recent ___.
3. Possible simple partial:  Extreme anxiety, sometimes with
nausea, one with brief inability to speak, but no loss of
consciousness or confusion, onset ___, initially every few
months, but last in ___.
4. Complex partial: Strange vision change, then loss of
consciousness, staring, difficulty with speech, postictal mild
confusion.  Onset ___, < 1 per year, last in ___.
5. Secondarily generalized tonic-clonic: Feeling of dizziness 
for
several seconds, sometimes with zigzag or jigsaw puzzle like
shapes in vision, lasting several seconds, then loss of
awareness, staring and unresponsiveness for about 30 seconds,
then stiffening of body, generalized shaking, upward eye
deviation, lasting ___ seconds; no incontinence, sometimes
bites tongue.  Postictal obtunded, then confused for several
minutes.  First in ___, initially every ___ months, last in
___.  Precipitants: Possibly sleep deprivation."

Regarding her current presentation: 

Patient approximately 6 weeks ago states she started to feel
unsteady on her feet and in her trunk. Episode lasted throughout
the good portion of the day and then she returned back to
baseline. Two weeks later, the patient had a similar episode 
that
lasted for 45 minutes with difficulty with her gait and feeling
off balance. Denies falling over or sensation of being pulled to
one side or the other. Denies any lightheadedness or vertigo, no
nausea/vomiting, no headache, no diplopia or blurry vision. No
other symptoms except for truncal ataxia and gait instability. 
Of
note, patient states she may have taken an extra dose of her
lamotrigine this ___ for no apparent reason. 
Last week she contacted Dr. ___ was concerned about
toxicity and the patient had a level drawn on the ___ which is
currently still pending. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Epilepsy
Hodgkin's Disease - s/p splenectomy and radiation therapy in 
___
HLD
Hypothyroidism
Memory Loss
Osteoporosis
Post menopausal
Vitamin D Deficiency
HTN

 
Social History:
___
Family History:
Mother - ___, TD2
Father - ___, CAD s/p CABG, DM2
Daughter - ___
Daughter - ___ Arthritis
No history of seizures or epilepsy

 
Physical Exam:
Admission Physical Exam: 
Physical Exam:
Vitals: 97.2F HR 95 147/69 RR 20 100% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3to 2mm and brisk. EOMI with horizontal
nystagmus on lateral gaze. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Dysmetria bilaterally in UE on finger nose 
finger,
truncal ataxia. 

-Gait: Slow shuffled gait with assistance, truncal instability.
Romberg unable to test because of ataxia at baseline.

================================================
Discharge Physical Exam: 
================================================
General: Well-appearing, NAD
HEENT: no scleral icterus nor conjunctival injection
Pulm: breathing comfortably on RA
CV: skin warm, well-perfused, no pallor nor diaphoresis
Extremities: Symmetric, no edema
Neurologic: 
Mental status: Awake, alert, Oriented x3. Attention intact to 
examination. Speech fluent with normal grammar and syntax. 
Comprehension intact to multistep appendicular commands. Fund of 
knowledge full. 
CN: EOMI without nystagmus. Gaze conjugate. Face activates 
symmetrically. No dysarthria
Motor: No pronator drift. Strength ___ throughout all major 
muscle groups. 
Sensory: Intact to LT throughout. proprioception intact BUE. 
Coordination: no dysmetria with FTN testing. No truncal ataxia. 
Gait not ataxic. 
Gait: casual, narrow-based. Able to heel and toe walk. Romberg 
with sway without stepoff. 
 
Pertinent Results:
___ 10:30PM BLOOD WBC-9.4 RBC-4.25 Hgb-13.0 Hct-40.2 MCV-95 
MCH-30.6 MCHC-32.3 RDW-14.2 RDWSD-49.5* Plt ___
___ 05:35AM BLOOD WBC-8.3 RBC-4.50 Hgb-13.7 Hct-42.1 MCV-94 
MCH-30.4 MCHC-32.5 RDW-14.4 RDWSD-49.7* Plt ___
___ 10:30PM BLOOD Glucose-117* UreaN-12 Creat-0.9 Na-140 
K-4.7 Cl-104 HCO3-28 AnGap-13
___ 05:35AM BLOOD Glucose-93 UreaN-12 Creat-0.8 Na-141 
K-4.9 Cl-103 HCO3-28 AnGap-15
___ 10:30PM BLOOD Albumin-4.4 Calcium-9.6 Phos-4.0 Mg-2.2
___ 05:35AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.2
___ 09:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:30PM BLOOD LAMOTRIGINE- 23.1     
___ 03:50AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 03:50AM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:50AM URINE UCG-NEGATIVE
___ 03:50AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Radiologic Data:
Non-Contrast CT of Head: 1.  No acute intracranial abnormality. 
2.  Paranasal sinus disease as described. 
3.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct. 

MRI/MRA brain ___: 1. No acute intracranial abnormality 
including hemorrhage, infarct, or suggestion of mass. 
2. Mild progression of nonspecific white matter signal 
abnormality, in a 
configuration suggesting chronic small vessel ischemic disease. 
3. Patent intracranial vasculature without significant stenosis, 
occlusion, or aneurysm. 
4. Patent cervical vasculature without significant stenosis or 
occlusion. 
  

 
Brief Hospital Course:
Ms. ___ was admitted with gait instability after a recent 
increase in Lamictal dose and possible double dose taken. 
MRI/MRA was obtained due to concern that this may represent 
acute vascular pathology, which was normal.  Lamictal level was 
supratherapeutic at 23.1. Her dose of lamictal was decreased to 
her prior home dose and her symptoms completely resolved. She 
was discharged on Lamotrigine 200mg bid. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H:PRN for temp 
greater than ___ and call MD or come to ___ Room 
2. LamoTRIgine 250 mg PO BID 
3. Levothyroxine Sodium 137 mcg PO DAILY 
4. LORazepam 1 mg PO ASDIR 
5. Simvastatin 20 mg PO QPM 
6. Calcium Carbonate 500 mg PO BID 
7. Vitamin D ___ UNIT PO DAILY 
8. DiphenhydrAMINE 25 mg PO Q6H:PRN allergies 

 
Discharge Medications:
1.  LamoTRIgine 200 mg PO BID 
RX *lamotrigine [Lamictal XR] 200 mg 1 tablet(s) by mouth every 
12 hours Disp #*60 Tablet Refills:*2 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H:PRN for temp 
greater than ___ and call MD or come to ___ Room  
3.  Calcium Carbonate 500 mg PO BID  
4.  DiphenhydrAMINE 25 mg PO Q6H:PRN allergies  
5.  Levothyroxine Sodium 137 mcg PO DAILY  
6.  LORazepam 1 mg PO ASDIR  
7.  Simvastatin 20 mg PO QPM  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lamotrigine toxicity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Neurology Service with gait 
instability. We think that this was caused by too much of your 
seizure medicine, Lamictal, after your recent dose increase. We 
gave you back your previous dose of Lamictal, and your symptoms 
improved. We did a MRI of your brain, which showed that you DID 
NOT have a stroke or other blood vessel problem. 
We have updated your Neurologist, Dr. ___ what happened 
while you were in the hospital. 
 
Followup Instructions:
___